US05455273
y) trans-N-(4-chlorobenzoyl)-N-methyl-4-[4-(1-((3-hydroxypropyl))methylaminoethyl)phenyl]-cyclohexylamine
from trans-N-(4-chlorobenzoyl)-N-methyl-4-[4-(1-methylaminoethyl)phenyl]cyclohexylamine and 3-bromo-1-propanol. Melting point: 88°-90° C.

reactant | trans-N-(4-chlorobenzoyl)-N-methyl-4-[4-(1-methylaminoethyl)phenyl]cyclohexylamine | ClC1=CC=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=CC=C(C=C2)C(C)NC)C=C1 | C23H29ClN2O
reactant | 3-bromo-1-propanol | BrCCCO | C3H7BrO
product | trans-N-(4-chlorobenzoyl)-N-methyl-4-[4-(1-((3-hydroxypropyl))methylaminoethyl)phenyl]-cyclohexylamine | ClC1=CC=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=CC=C(C=C2)C(C)NCCCCO)C=C1 | C26H35ClN2O2
